US08895558B2
Step 1: Ethyl 2-acetyl-4-oxo-4-phenylbutanoate
To a solution of ethyl acetoacetate (10 g, 76.8 mmol) in tetrahydrofuran (50 ml) at 0° C. was added sodium hydride (4 g, 60% in mineral oil, 100 mmol) portionly. The reaction mixture was stirred for minutes, and 2-bromoacetophenone (16.8 g, 84.5 mmol) in tetrahydrofuran (20 ml) was added dropwisely. After warming the mixture to room temperature, it was stirred for 4 hours. The resulting solution was quenched with water and normal work-up accomplished with diethyl ether. The organic layer was dried with MgSO4, and purified by silica gel column chromatography (EtOAc:Hx=1:5) to produce desired compound (19 g, 98%) as light yellow color oil.

reactant | ethyl acetoacetate | 76.8 mmol, 10 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 100 mmol, 4 g | [H-].[Na+]
reactant | 2-bromoacetophenone | 84.5 mmol, 16.8 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 2-acetyl-4-oxo-4-phenylbutanoate | 19 g, 98% | C(C)(=O)C(C(=O)OCC)CC(C1=CC=CC=C1)=O | C14H16O4
